US07598412B2
2-Fluoro-N-phenethyl-nicotinamide
2-Fluoro-nicotinic acid (0.793 g, 5.59 mmol) and phenethylamine (0.705 mL, 5.59 mmol) were dissolved in acetonitrile (20 mL) containing triethylamine (1.56 mL, 11.2 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (2.97 g, 7.83 mmol) was added and the solution was allowed to stir for 16 hours. The reaction mixture was evaporated to dryness and purified by column chromatography on silica gel using a gradient of 0-40% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a white solid (0.196 g, 0.802 mmol, 14.3%). ESI-MS m/z calc. 244.1, found 245.2 (M+1)+. Retention time of 2.76 minutes.

reactant | 2-Fluoro-nicotinic acid | 5.59 mmol, 0.793 g | FC1=C(C(=O)O)C=CC=N1 | C6H4FNO2
reactant | phenethylamine | 5.59 mmol, 0.705 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 11.2 mmol, 1.56 mL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 7.83 mmol, 2.97 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-Fluoro-N-phenethyl-nicotinamide | 0.802 mmol, 0.196 g, 14.3% | FC1=C(C(=O)NCCC2=CC=CC=C2)C=CC=N1 | C14H13FN2O
